US08895572B2
Step B: Methyl (2R)-2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridine]-5-carboxylate
A solution of (2R)-5-iodo-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one (100.0 g, 276 mmol), sodium acetate (45.3 g, 552 mmol) and Pd(dppf)Cl2—CH2Cl2 (11.3 g, 13.8 mmol) in a mixture of MeOH (1 L) and toluene (30 mL) was pressurized to 120 psi of CO at 23° C. and then heated at 80° C. for 12 h with stirring. The reaction mixture was diluted with water (1 L), and the precipitate collected by filtration, washed with water, and dried under nitrogen atmosphere to give the title compound, which was used without further purification. MS: m/z=295.3 (M+1).

reactant | (2R)-5-iodo-1,3-dihydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | 276 mmol, 100.0 g | IC=1C=C2C[C@]3(C(NC4=NC=CC=C43)=O)CC2=CC1 | C15H11IN2O
reactant | sodium acetate | 552 mmol, 45.3 g | C(C)(=O)[O-].[Na+]
reactant | MeOH | 1 L | CO | CH4O
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 1 L | O | H2O
catalyst | Pd(dppf)Cl2 CH2Cl2 | 13.8 mmol, 11.3 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | Methyl (2R)-2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridine]-5-carboxylate | O=C1[C@]2(C=3C(=NC=CC3)N1)CC1=CC=C(C=C1C2)C(=O)OC | C17H14N2O3
